US07557213B2
A mixture of 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-7-trifluoromethyl-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester (0.72 g, 1.6 mmol, 1 equiv) and methylmethoxyamine hydrochloride (0.16 g, 1 equiv) in 2 mL of toluene was treated with AlMe3 (0.5 M in toluene, 3.5 mL, 1.1 equiv) at rt for 1 h. The reaction was quenched by slow addition of saturated aqueous solution of sodium potassium tartrate. The organic layer was dried over sodium sulfate, filtered and evaporated to give crude 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-7-trifluoromethyl-1,4-dihydro-[1,8]naphthyridine-3carboxylic acid methoxy-methyl-amide.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-7-trifluoromethyl-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester | 1.6 mmol, 0.72 g, 1 equiv | C(C)OC(=O)C1=CN(C2=NC(=CC=C2C1=O)C(F)(F)F)CC1=NC(=CC=C1)Br | C18H13BrF3N3O3
reactant | methylmethoxyamine hydrochloride | 0.16 g, 1 equiv | Cl.CNOC
reactant | AlMe3 | 0.5 M, 3.5 mL, 1.1 equiv | C[Al](C)C
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-7-trifluoromethyl-1,4-dihydro-[1,8]naphthyridine-3carboxylic acid methoxy-methyl-amide | CON(C(=O)C1=CN(C2=NC(=CC=C2C1=O)C(F)(F)F)CC1=NC(=CC=C1)Br)C | C18H14BrF3N4O3
